US08349847B2
Preparation of 1-(3,5-Dimethyl-phenyl)-1,5-dihydro-pyrazolo[3,4-d]pyrimidine-4-one (Compound No: 78)
Charged 300.0 g of formamide into a 2.0 L 4 necked round bottom flask connected to a mechanical stirrer, thermo meter socket, and condenser under nitrogen atmosphere. 90.0 g (0.39 mol) of 5-Amino-1-(3,5-dimethyl-phenyl)-1H-pyrazole-4-carboxylic acid amide (Compound No. 77) was charged. Reaction mass temperature was raised to reflux (185-195° C.). Maintained the mass temperature at reflux for 60-90 min. Reaction mass temperature was cooled to 140-150° C. 900.0 ml of water was added slowly at maintaining the mass temperature 80-150° C. Maintained the mass temperature at 80-90° C. for 45-60 min. Reaction mass temperature was cooled to 25-30° C. Maintained the mass temperature at 25-30° C. for 90-120 min. Solid was filtered and solid was washed with 150.0 ml of water. 500.0 ml of DM Water and wet crude compound were charged into a 2.0 L 4 necked round bottom flask connected to a mechanical stirrer, thermo meter socket, and condenser. Mass temperature was raised to reflux. Maintained the mass temperature at reflux for 75-90 min and mass temperature was cooled to 25-30° C. Maintained the mass temperature at 25-30° C. for 90-120 min. Solid was filtered and solid was washed with 100.0 ml of water. Compound was dried under vacuum at 60-65° C. Dry weight of the compound: 65.0 g (yield 69.21%)

reactant | formamide | 300.0 g | C(=O)N | CH3NO
reactant | 5-Amino-1-(3,5-dimethyl-phenyl)-1H-pyrazole-4-carboxylic acid amide | 0.39 mol, 90.0 g | NC1=C(C=NN1C1=CC(=CC(=C1)C)C)C(=O)N | C12H14N4O
solvent | water | 900.0 ml | O | H2O
product | 1-(3,5-Dimethyl-phenyl)-1,5-dihydro-pyrazolo[3,4-d]pyrimidine-4-one | yield 69.21% | CC=1C=C(C=C(C1)C)N1N=CC2=C1N=CNC2=O | C13H12N4O
